US04886516
Step 2: 2,3-dinitro-4-tetrafluoroethoxytoluene production
1.5 g (5.9 mmoles) 3-nitro-4-tetrafluoroethoxytoluene is placed in 7.5 ml concentrated sulfuric acid and 0.65 g (6.4 mmoles) potassium nitrate in 3 ml concentrated sulfuric acid is added dropwise at 0° C. After the addition is terminated it is agitated for 2 hours at ice bath temperature and then poured onto ice. The dinitro compound precipitates as an oil and is extracted with ether. The combined ether phases are washed with sodium bicarbonate solution and water and dried over sodium sulfate. When the solvent is distilled the 2,3-dinitro-4-tetrafluoroethoxytoluene remains as a yellow oil which crystalizes after standing for a short time. Yield: 1.55 g (88% of the theoretical yield), melting point: 35° C.

reactant | 3-nitro-4-tetrafluoroethoxytoluene | 5.9 mmoles, 1.5 g | [N+](=O)([O-])C=1C=C(C=CC1OC(C(F)(F)F)F)C | C9H7F4NO3
reactant | potassium nitrate | 6.4 mmoles, 0.65 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 7.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3-dinitro-4-tetrafluoroethoxytoluene | [N+](=O)([O-])C1=C(C=CC(=C1[N+](=O)[O-])OC(C(F)(F)F)F)C | C9H6F4N2O5
